US04075241
2-(3,4-Dichlorophenyl)-3-amino-1-butanol
The compound is prepared according to the procedure described in Example 2, using as starting material 5.5 g. of ethyl 2-(3,4-dichlorophenyl)-3-aminobutyrate. Yield 3.75 g.; boiling point 125° C/0.2 mm Hg. The hydrochloride melts at 157°-160° C.

reactant | ethyl 2-(3,4-dichlorophenyl)-3-aminobutyrate | ClC=1C=C(C=CC1Cl)C(C(=O)OCC)C(C)N | C12H15Cl2NO2
reactant | hydrochloride | Cl | ClH
product | 2-(3,4-Dichlorophenyl)-3-amino-1-butanol | ClC=1C=C(C=CC1Cl)C(CO)C(C)N | C10H13Cl2NO
